* SPICE3 file created from D_FF.ext - technology: scmos
* TSPC implementation of D flipflop (positive edge triggered) LAYOUT
.include TSMC_180nm.txt
.param SUPPLY = 1.8
.option scale=0.09u
.global gnd vdd

M1000 q a_216_8# vdd w_110_2# CMOSP w=20 l=2
+  ad=100 pd=50 as=600 ps=300
M1001 a_123_n24# clk a_123_8# w_110_2# CMOSP w=20 l=2
+  ad=100 pd=50 as=120 ps=52
M1002 q a_216_8# gnd Gnd CMOSN w=10 l=2
+  ad=50 pd=30 as=500 ps=260
M1003 a_191_8# a_173_n18# vdd w_110_2# CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1004 a_173_n18# a_147_n24# gnd Gnd CMOSN w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1005 a_173_n18# a_147_n24# vdd w_110_2# CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1006 a_123_8# d vdd w_110_2# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_147_8# a_123_n24# vdd w_110_2# CMOSP w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1008 a_123_n24# d gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1009 a_191_8# clk a_191_n24# Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=140 ps=54
M1010 a_191_n24# a_173_n18# gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1011 a_147_n24# clk a_147_8# w_110_2# CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1012 a_216_8# a_191_8# vdd w_110_2# CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1013 a_216_8# clk a_216_n24# Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=140 ps=54
M1014 a_216_n24# a_191_8# gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1015 a_147_n24# a_123_n24# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
C0 gnd d 0.02fF
C1 w_110_2# a_173_n18# 0.09fF
C2 clk a_191_8# 0.03fF
C3 a_173_n18# gnd 0.05fF
C4 clk d 0.07fF
C5 clk a_147_n24# 0.06fF
C6 w_110_2# a_123_n24# 0.09fF
C7 w_110_2# a_216_8# 0.12fF
C8 clk a_173_n18# 0.03fF
C9 gnd a_123_n24# 0.02fF
C10 w_110_2# vdd 0.14fF
C11 a_147_n24# a_173_n18# 0.05fF
C12 w_110_2# a_191_8# 0.11fF
C13 clk w_110_2# 0.14fF
C14 w_110_2# q 0.02fF
C15 clk a_123_n24# 0.14fF
C16 w_110_2# d 0.07fF
C17 a_216_8# q 0.05fF
C18 d a_123_n24# 0.03fF
C19 a_191_8# gnd 0.05fF
C20 a_147_n24# w_110_2# 0.09fF
C21 clk gnd 1.41fF
C22 a_147_n24# a_123_n24# 0.03fF
C23 gnd Gnd 0.07fF
C24 q Gnd 0.05fF
C25 vdd Gnd 0.05fF
C26 a_216_8# Gnd 0.17fF
C27 a_191_8# Gnd 0.15fF
C28 a_173_n18# Gnd 0.17fF
C29 a_147_n24# Gnd 0.19fF
C30 a_123_n24# Gnd 0.05fF
C31 clk Gnd 1.13fF
C32 d Gnd 0.12fF
C33 w_110_2# Gnd 4.56fF

Vdd vdd gnd 'SUPPLY'
Vclk clk gnd pulse 0 1.8 5ns 0.01ns 0.01ns 10ns 20ns
Vd d gnd pulse 1.8 0 12n 0.01ns 0.01ns 20ns 40ns

.tran 100p 100n

.ic v(q)=0

.control
set hcopypscolor = 1
set color0=white
set color1=black

run

set curplottitle="dff 2025122009"
plot v(d)+2, v(q), v(clk)+4
.endc